US08217069B2
To a solution of 4-chloro-2-methoxy-5-nitrophenol (0.67 g) and 2-fluoro-6-methoxy-benzyl bromide (0.66 g) in N,N-dimethylformamide (3 mL) was added potassium carbonate (0.54 g), and the mixture was stirred at room temperature for 3 days. The reaction mixture was poured into water, and the resulting mixture was stirred at room temperature for 30 minutes. The precipitated crystals were collected by filtration. The collected crystals were washed with water and a mixed solvent (diethyl ether/n-hexane=1/3), and dried under reduced pressure to give 5-chloro-2-(2-fluoro-6-methoxybenzyloxy)-4-nitroanisole (0.97 g). This material was dissolved in tetrahydrofuran (15 mL). To the solution were added methanol (15 mL) and nickel(II) bromide (31 mg). To the mixture was added sodium borohydride (0.32 g) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes, and then stirred at room temperature for 30 minutes. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1−3/2) to give the title compound (0.79 g).

reactant | 4-chloro-2-methoxy-5-nitrophenol | 0.67 g | ClC1=CC(=C(C=C1[N+](=O)[O-])O)OC | C7H6ClNO4
reactant | 2-fluoro-6-methoxy-benzyl bromide | 0.66 g | FC1=C(CBr)C(=CC=C1)OC | C8H8BrFO
reactant | potassium carbonate | 0.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 5-chloro-2-(2-fluoro-6-methoxybenzyloxy)-4-nitroanisole | 0.97 g | ClC=1C(=CC(=C(C1)OC)OCC1=C(C=CC=C1OC)F)[N+](=O)[O-] | C15H13ClFNO5
